US06939885B2
Synthesis of 4-tert-Butyl-N-[4-chloro-2-(2-methyl-pyridine-3-carbonyl)-phenyl]-benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using (2-Amino-5-chloro-phenyl)-(2-methyl-pyridin-3-yl)-methanone (243 mg, 1.0 mmol) and 4-tert-Butyl-benzenesulfonyl chloride (232 mg, 1.0 mmol) and purified by HPLC. 1H NMR (CDCl3) δ 10.71 (br s, 1H, NH), 8.63 (dd, 1H, J=5.1 Hz, J=1.6 Hz), 7.83 (d, 1H, J=8.8 Hz), 7.73 (dm, 2H, J=8.4 Hz), 7.49 (dd, 1H, J=8.8 Hz, J=2.6 Hz), 7.43 (dm, 2H, J=8.5 Hz), 7.27 (dd, 1H, J=9.5 Hz, J=1.8 Hz), 7.18 (dd, 1H, J=7.7 Hz, J=4.8 Hz), 7.13 (d, 1H, J=2.6 Hz), 2.29 (s, 3H), 1.29 (s, 9H). MS: m/z 443 (M+1).

reactant | (2-Amino-5-chloro-phenyl)-(2-methyl-pyridin-3-yl)-methanone | 1.0 mmol, 243 mg | NC1=C(C=C(C=C1)Cl)C(=O)C=1C(=NC=CC1)C | C13H11ClN2O
reactant | 4-tert-Butyl-benzenesulfonyl chloride | 1.0 mmol, 232 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
product | 4-tert-Butyl-N-[4-chloro-2-(2-methyl-pyridine-3-carbonyl)-phenyl]-benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)Cl)C(=O)C=1C(=NC=CC1)C | C23H23ClN2O3S
